US05532258
To a solution of N-(3-cyanobenzyl)acetamide (7.7 g) in methylene dichloride (150 ml) and tetrahydrofuran (50 ml) was added dropwise a solution of methyl magnesium bromide in ether (3 mol/l, 52 ml) at 10° to 20° C. under stirring and the resulting mixture was stirred at the same condition for 6 hours. The reaction mixture was poured into water and the resultant mixture was adjusted to pH 7 with 6N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine and magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel. The fractions eluted with a mixture of chloroform and ethyl acetate (8:2) were collected and the solvent was evaporated in vacuo to give 3'-(acetylaminomethyl)acetophenone (4.7 g) (oil).

reactant | N-(3-cyanobenzyl)acetamide | 7.7 g | C(#N)C=1C=C(CNC(C)=O)C=CC1 | C10H10N2O
reactant | methyl magnesium bromide | C[Mg]Br
reactant | water | O | H2O
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ether | 3 mol/l, 52 ml | CCOCC | C4H10O
solvent | methylene dichloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3'-(acetylaminomethyl)acetophenone | 4.7 g | C(C)(=O)NCC=1C=C(C=CC1)C(C)=O | C11H13NO2
